US07598254B2
Ethyl 4-(4-chlorophenylthio)-3-nitrobenzoate
In ethanol (15 mL) were suspended ethyl 4-chloro-3-nitrobenzoate (1.10 g, 4.79 mmol), 4-chlorothiophenol (0.72 g, 4.98 mmol) and potassium carbonate (0.95 g, 6.78 mmol), and the suspension was heated under refluxing for 3 hours. The mixture was then placed under reduced pressure to distill the solvent off. After addition of water (100 mL), the mixture was subjected to extraction with ethyl acetate (100 mL×2) and dried over anhydrous sodium sulfate. The dry extract was placed under reduced pressure to distill the solvent off. The residue was purified-by silica gel column chromatography (ethyl acetate/hexane), to obtain 767 mg (yield 47%) of the titled compound as a yellow crystalline product.

reactant | ethyl 4-chloro-3-nitrobenzoate | 4.79 mmol, 1.10 g | ClC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | 4-chlorothiophenol | 4.98 mmol, 0.72 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 6.78 mmol, 0.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Ethyl 4-(4-chlorophenylthio)-3-nitrobenzoate | 767 mg, yield 47% | ClC1=CC=C(C=C1)SC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C15H12ClNO4S
